US03989737
4-(N-allyloxypropionimidoyl)-3-benzoyloxy-5-oxo-3-cyclohexenespirocyclohexane
To a solution of 4-(1-allyloxyaminopropylidene)spirobicyclohexane-3,5-dione (1.5 g) in acetone (30 ml), sodium hydroxide (0.2 g) in water (1 ml) was added at room temperature and then benzoylochloride (0.7 g) was added. After stirring for 5 hr, the reaction mixture was poured into ice-water and extracted with chloroform. The extract was washed with one normal sodium hydroxide and dried over magnesium sulfate. The solvent was removed in vacuo and oily substance (0.8 g) was obtained.

reactant | 4-(1-allyloxyaminopropylidene)spirobicyclohexane-3,5-dione | 1.5 g | C(C=C)ONC(CC)=C1C(CC2(CC1=O)CCCCC2)=O | C17H25NO3
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | 4-(N-allyloxypropionimidoyl)-3-benzoyloxy-5-oxo-3-cyclohexenespirocyclohexane | C(C=C)ON=C(CC)C1=C(CC2(CCCCC2)CC1=O)OC(C1=CC=CC=C1)=O | C24H29NO4
